*BZG03C39 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*39V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG03C39 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  38.46
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=88.1P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=75.5U RS=4.39 N=4)
.ENDS